US06174885B1
(2) [6-(Hydroxymethyl)-3-cyclohexenyl]-N-octadecylformamide
2-Octadecyl-4,7,3a,7a-tetrahydroisoindole-1,3-dione (5.00 g) was suspended into a mixture of 2-propanol (90 ml) and water (15 ml) and then sodium borohydride (2.34 g) was added thereto. After being stirred for 46 hours at room temperature, the reaction mixture was acidified with dilute hydrochloric acid and then concentrated. The residue was, with chloroform added thereto, washed with dilute hydrochloric acid, water and saturated sodium hydrogencarbonate aqueous solution successively, dried over sodium sulfate anhydride, and concentrated. The residue was purified by silica gel column chromatography (silica gel 80 g, chloroform:methanol=50:1-10:1), thereby yielding the entitled compound (4.32 g) as white crystals.

reactant | 2-Octadecyl-4,7,3a,7a-tetrahydroisoindole-1,3-dione | 5.00 g | C(CCCCCCCCCCCCCCCCC)N1C(C2CC=CCC2C1=O)=O | C26H45NO2
reactant | 2-propanol | 90 ml | CC(C)O | C3H8O
reactant | sodium borohydride | 2.34 g | [BH4-].[Na+]
reactant | hydrochloric acid | Cl | ClH
solvent | water | 15 ml | O | H2O
product | [6-(Hydroxymethyl)-3-cyclohexenyl]-N-octadecylformamide | 4.32 g | OCC1CC=CCC1N(C=O)CCCCCCCCCCCCCCCCCC | C26H49NO2
